US08222256B2
N4-(5-Cyclopropyl-1H-pyrazol-3-yl)-6-methyl-N2-(3-phenylisoxazol-5-ylmethyl)-pyrimidine-2,4,6-triamine.
A mixture of 2-chloro-6-methylpyrimidin-4-yl-(5-cyclopropyl-1H-pyrazol-3-yl)-amine (1.9 g, 7.6 mmol), 3-phenylisoxazol-5-ylmethylamine (1.7 g, 9.9 mmol) and diisopropylethylamine (1.8 mL, 11 mmol) in 1-butanol (30 mL) was heated to 160° C. in a 50 mL sealed tube for 8 h. The hot mixture was filtered to give the desired product (1.7 g, 58%) as a white solid.

reactant | 2-chloro-6-methylpyrimidin-4-yl-(5-cyclopropyl-1H-pyrazol-3-yl)-amine | 7.6 mmol, 1.9 g | ClC1=NC(=CC(=N1)NC1=NNC(=C1)C1CC1)C | C11H12ClN5
reactant | 3-phenylisoxazol-5-ylmethylamine | 9.9 mmol, 1.7 g | C1(=CC=CC=C1)C1=NOC(=C1)CN | C10H10N2O
reactant | diisopropylethylamine | 11 mmol, 1.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1-butanol | 30 mL | C(CCC)O | C4H10O
product | N4-(5-Cyclopropyl-1H-pyrazol-3-yl)-6-methyl-N2-(3-phenylisoxazol-5-ylmethyl)-pyrimidine-2,4,6-triamine | 1.7 g, 58% | C1(CC1)C1=CC(=NN1)NC=1N=C(NC(C1)(N)C)NCC1=CC(=NO1)C1=CC=CC=C1 | C21H24N8O
